US09302989B2
N-(4-{[(3-methoxybenzyl)sulfonyl]amino}phenyl)-1,3-dihydro-2H-isoindole-2-carboxamide
N-(4-aminophenyl)isoindoline-2-carboxamide (0.0585 g, 0.231 mmol) was suspended in dichloromethane (2 ml) followed by addition of triisopropylethylamine (0.081 ml, 0.462 mmol). (3-Methoxyphenyl)methanesulfonyl chloride (0.061 g, 0.277 mmol) was dissolved in 1 ml dichloromethane and added to the mixture via syringe slowly. The mixture was quenched with water and the separated aqueous layer was extracted with dichloromethane. The combined organic layers were dried over magnesium sulfate, filtered and concentrated. Reverse-phase HPLC provided the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.65 (s, 1H), 8.61 (s, 1H), 8.50 (d, J=5.0 Hz, 1H), 8.34 (t, J=5.6 Hz, 1H), 7.80-7.73 (m, 2H), 7.69-7.61 (m, 2H), 7.44 (d, J=5.0 Hz, 1H), 4.86-4.79 (m, 4H), 3.20 (t, J=6.2 Hz, 2H), 2.46-2.25 (m, 3H), 2.20 (d, J=7.9 Hz, 3H), 2.06-1.78 (m, 1H), 1.52-1.37 (m, 1H); MS (ESI(+)) m/e 438 (M+H)+.

reactant | N-(4-aminophenyl)isoindoline-2-carboxamide | 0.231 mmol, 0.0585 g | NC1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C15H15N3O
reactant | triisopropylethylamine | 0.462 mmol, 0.081 ml | C(C)(C)C(CN)(C(C)C)C(C)C | C11H25N
reactant | (3-Methoxyphenyl)methanesulfonyl chloride | 0.277 mmol, 0.061 g | COC=1C=C(C=CC1)CS(=O)(=O)Cl | C8H9ClO3S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-(4-{[(3-methoxybenzyl)sulfonyl]amino}phenyl)-1,3-dihydro-2H-isoindole-2-carboxamide | COC=1C=C(CS(=O)(=O)NC2=CC=C(C=C2)NC(=O)N2CC3=CC=CC=C3C2)C=CC1 | C23H23N3O4S
